US04692442
3-ethyl-4-(4-p-nitrobenzyloxycarbonylaminobutyrylthio)-2-oxoazetidine (racemic cis-trans compound in a ratio of 1:4)
In succession, 2.2 g (20 mmole) of triethylamine and a solution of 1.4 ml (10 mmole) of isobutyl chloroformate in 20 ml of dry methylene chloride are added dropwise to a solution, cooled to -10°, of 2.82 g (10 mmole) of 4-p-nitrobenzyloxycarbonylaminobutyric acid in 50 ml of dry methylene chloride. The reaction mixture is stirred for one hour and then a strong current of hydrogen sulphide is conveyed through for 2 hours. After acidifying with 2N sulphuric acid, the organic phase is separated off, dried and concentrated by evaporation in vacuo. The resulting 4-p-nitrobenzyloxycarbonylaminothiobutyric acid can be further processed without further purification.

reactant | triethylamine | 20 mmole, 2.2 g | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 10 mmole, 1.4 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 4-p-nitrobenzyloxycarbonylaminobutyric acid | 10 mmole, 2.82 g | [N+](=O)([O-])C1=CC=C(COC(=O)NCCCC(=O)O)C=C1 | C12H14N2O6
reactant | hydrogen sulphide | S | H2S
reactant | sulphuric acid | 2N | S(O)(O)(=O)=O | H2O4S
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 3-ethyl-4-(4-p-nitrobenzyloxycarbonylaminobutyrylthio)-2-oxoazetidine | C(C)C1C(NC1SC(CCCNC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)=O | C17H21N3O6S
